US05478857
N,N-Dimethyl-3-(2-(3-(2-ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)propoxy)phenyl)propionamide
A solution of 3-(2-(3-(2-ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)propoxy)phenyl)propionic acid and several equivalents of thionyl chloride in dichloromethane was kept at room temperature for 3 hours, and then poured into a stirred solution of 40% dimethylamine in water. The organic layer was washed with aqueous hydrochloric acid, washed with saturated sodium chloride, dried over sodium sulfate, and evaporated in vacuo. The residue was chromatographed on silica gel eluting with ethyl acetate to provide the desired title product. NMR, MS.

reactant | 3-(2-(3-(2-ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)propoxy)phenyl)propionic acid | C(C)C1=C(OCCCOC2=C(C=CC=C2)CCC(=O)O)C=C(C(=C1)C1=CC=C(C=C1)F)O | C26H27FO5
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylamine | CNC | C2H7N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N,N-Dimethyl-3-(2-(3-(2-ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)propoxy)phenyl)propionamide | CN(C(CCC1=C(C=CC=C1)OCCCOC1=C(C=C(C(=C1)O)C1=CC=C(C=C1)F)CC)=O)C | C28H32FNO4
